US08735384B2
A solution of (2-bromo-3-methylphenyl)(4,5-dihydrofuran-2-yl)methanone (0.80 g, 2.99 mmol) (mass approximate, based on ˜8 mg/mL Et2O solution) was treated with 500 mL EtOAc and concentrated to ˜100 mL twice. The resulting solution was placed under N2 atmosphere, treated with 5% Pt/C, and then placed under a balloon of H2. Reaction mixture was allowed to stir overnight, then filtered through plug of celite and the filter agent was further washed with 100 mL EtOAc. The solution was concentrated in vacuo and the crude material was absorbed onto a plug of silica gel and purified by column chromatography eluting with a gradient of 20-100% Et2O in hexane to afford (2-bromo-3-methylphenyl)(tetrahydrofuran-2-yl)methanone.

reactant | (2-bromo-3-methylphenyl)(4,5-dihydrofuran-2-yl)methanone | 2.99 mmol, 0.80 g | BrC1=C(C=CC=C1C)C(=O)C=1OCCC1 | C12H11BrO2
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | (2-bromo-3-methylphenyl)(tetrahydrofuran-2-yl)methanone | BrC1=C(C=CC=C1C)C(=O)C1OCCC1 | C12H13BrO2
